US04960771
Preparation of 4-decyl-1,3-dioxolan-2-one
A 125 ml round bottom flask equipped with a Dean-Stark trap was charged with 10 g of 1,2-dodecanediol, 7.1 g of diethyl carbonate and 50 ml of benzene. The solution was stirred until homogeneous and then 50 mg of 60% NaH was added. The reaction mixture was refluxed for 6 hours and then concentrated to afford 12.2 g of oil. This was taken up in 100 ml of pet. ether and allowed to crystallize in freezer whereupon 1.1 g of starting diol was recovered. Concentration of the filtrate gave 9.53 g (89.66%) of a colorless oil.

reactant | 1,2-dodecanediol | 10 g | C(C(CCCCCCCCCC)O)O | C12H26O2
reactant | diethyl carbonate | 7.1 g | C(OCC)(OCC)=O | C5H10O3
catalyst | NaH | 50 mg | [H-].[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-decyl-1,3-dioxolan-2-one | 12.2 g | C(CCCCCCCCC)C1OC(OC1)=O | C13H24O3
